US06448205B1
Precursor α: 2,3-Dichloro-5-isopropylthiopyridine
13.1 g (0.08 mol) of 3-amino-5,6-dichloropyridine in 120 ml of methylene chloride were reacted with 25 g (0.16 mol) of diisopropyl disulfide and 12.4 g (0.12 mol) of tert-butyl nitrite in 70 ml of methylene chloride by a method similar to Example 1, Precursor α. This gave 30 g of the dark oil (approximately 40% of product of value) which was further reacted without further purification. 1H-NMR (in d6 dimethyl sulfoxide): δ [ppm]=1.25 (d, 2×CH3); 3.7 (m, CH); 8.2 and 8.3 (2×d, pyr H).

reactant | 3-amino-5,6-dichloropyridine | 0.08 mol, 13.1 g | NC=1C=NC(=C(C1)Cl)Cl | C5H4Cl2N2
reactant | diisopropyl disulfide | 0.16 mol, 25 g | C(C)(C)SSC(C)C | C6H14S2
reactant | tert-butyl nitrite | 0.12 mol, 12.4 g | N(=O)OC(C)(C)C | C4H9NO2
solvent | methylene chloride | 120 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 70 ml | C(Cl)Cl | CH2Cl2
product | 2,3-Dichloro-5-isopropylthiopyridine | ClC1=NC=C(C=C1Cl)SC(C)C | C8H9Cl2NS
